US04689327
2.21 g of sodium hydroxide are added to a solution of 5.75 g of cysteamine hydrochloride in 200 ml of ethanol, and a solution of 14.28 g of 2-[2-(4-phenylpiperazin-1-yl)ethyloxy]benzaldehyde in 100 ml of ethanol is added thereto. After the mixture is stirred at room temperature for 2 hours, the mixture is concentrated under reduced pressure to remove solvent. The residue is dissolved in ethyl acetate, and the solution is washed with water, dried and then concentrated under reduced pressure to remove solvent. The residue is recrystallized from ether. 15.54 g of 2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine are obtained.

reactant | sodium hydroxide | 2.21 g | [OH-].[Na+]
reactant | cysteamine hydrochloride | 5.75 g | Cl.NCCS
reactant | 2-[2-(4-phenylpiperazin-1-yl)ethyloxy]benzaldehyde | 14.28 g | C1(=CC=CC=C1)N1CCN(CC1)CCOC1=C(C=O)C=CC=C1 | C19H22N2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine | 15.54 g | C1(=CC=CC=C1)N1CCN(CC1)CCOC1=C(C=CC=C1)C1SCCN1 | C21H27N3OS
